Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pressure  
 
Major Surgical or Invasive Procedure:
Excercise Tolerance Test

 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of CAD 
s/p DES x2, HLD, OSA, who presents with chest pressure. He was 
in his usual state of health until 3 days ago when he developed 
left-sided chest pressure with exertion, clearing snow from the 
edge of his roof. The pressure took 1 hour to resolve. He had 
another episode of chest discomfort the following day while 
walking up a flight of stairs. This morning he awoke with 
left-sided chest discomfort that became markedly worse when he 
was walking on a slight incline this afternoon. During these 
episodes he had no associated shortness of breath, nausea, or 
diaphoresis. The pain did not radiate to the arms or jaw. He 
took 1 nitroglycerin, then became diaphoretic and presyncopal 
with a "low blood pressure". He had taken his aspirin and plavix 
in the morning and took a second dose of aspirin 325 mg. He then 
called EMS who gave him an addition 325 mg of aspirin and his 
chest pressure resolved. Of note this chest pressure is 
different from the symptoms that led to his initial 
catheterization several months ago.  
.  
He was taken to ___ where he was given metoprolol 
12.5 mg PO. CXR and EKG were unremarkable. Troponin-I was 0.01 
with CPK 49 and CKMBR 1.2. He remained chest pain free. He 
requested to be transfered here as his cardiac care is here.  
.  
In the ___ ED, initial vitals were pain 0, T 98.4, HR 70, BP 
118/64, RR 16, O2 sat 100% RA. Exam was notable for guaiac + 
brown stool. EKG was unchanged from prior. Labs were notable for 
a negative troponin. He remained chest pain free. Vital signs on 
sign-out were HR 84, BP 105/61, RR 14, O2 sat 100% RA.  
.  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He also denies paroxysmal nocturnal dyspnea, orthopnea, ankle 
edema, or palpitations.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: - Diabetes, + Dyslipidemia, - 
Hypertension  
2. CARDIAC HISTORY:  
-PERCUTANEOUS CORONARY INTERVENTIONS: DES to DIAG and DES to 
mid-CIRC on ___  
3. OTHER PAST MEDICAL HISTORY:  
OSA, non-compliant with CPAP  
Deviated septum  
Rhinitis  
Hypotestoeronemia/Erectile Dysfunction  
Right Retinal detachment s/p laser repair  
Nephrolithiasis  
Herpes Simplex Virus type 1  
Osteoarthritis  
Syncope with negative workup attributed to Vertigo  
 
Social History:
___
Family History:
Father: DM2, HD, died at age of ___ ___ DM related complications
Mother: Died at ___ from ARF.  Developed sx of CHF in her last 
years.
 
Physical Exam:
ADMISSION:
VS: T=96.7 BP=127/75 HR=79 RR=18 O2 sat= 99% RA Wt=78.2 kg  
GENERAL: Obese Caucasian male in NAD. Mood, affect appropriate.  

HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with flat JVP.  
CARDIAC: RRR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
NEURO: A&O x 3, CNII-XII intact, strength ___ in the upper and 
lower extremities bilaterally.
.
DISCHARGE:
(unchanged)
 
Pertinent Results:
___ 06:00AM BLOOD WBC-5.1 RBC-3.46* Hgb-10.8* Hct-30.1* 
MCV-87 MCH-31.1 MCHC-35.9* RDW-12.3 Plt ___
___ 07:45PM BLOOD WBC-6.5 RBC-3.57* Hgb-11.1*# Hct-31.5* 
MCV-88 MCH-31.1 MCHC-35.3* RDW-12.5 Plt ___
___ 07:45PM BLOOD ___ PTT-27.5 ___
___ 06:35AM BLOOD Glucose-102* UreaN-17 Creat-1.0 Na-138 
K-3.7 Cl-102 HCO3-27 AnGap-13
___ 06:00AM BLOOD Glucose-91 UreaN-23* Creat-0.7 Na-143 
K-4.0 Cl-110* HCO3-26 AnGap-11
___ 07:45PM BLOOD Glucose-141* UreaN-32* Creat-0.8 Na-142 
K-4.1 Cl-110* HCO3-26 AnGap-10
___ 05:20PM BLOOD CK(CPK)-45*
___ 06:00AM BLOOD CK(CPK)-38*
___ 05:20PM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:00AM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:45PM BLOOD cTropnT-<0.01
___ 06:35AM BLOOD Calcium-9.5 Phos-3.2 Mg-2.0 Cholest-PND
___ 06:00AM BLOOD Calcium-8.6 Phos-2.5*# Mg-1.9
.
Excercise Stress Test ___
INTERPRETATION: This was a ___ year old man with a known history 
of 
CAD (stent ___ who was referred to the lab from the inpatient 
floor 
for an evaluation of chest discomfort with exertion. He 
exercised for 9 
minutes of ___ protocol ___ METs) and stopped due to 
fatigue and 
shortness of breath. This represents an excellent functional 
capacity 
for his age. He denied any chest, arm, neck or back discomfort 
throughout the study. There was 1-1.5mm slow upsloping ST 
segment 
depression in leads 2,3,F,V5-6 noted throughout exercise, which 
appeared 
to return back to baseline near 3 minutes of recovery. At 4 
minutes of 
recovery, the ST segments in leads 2,3,F showed 0.5-1mm 
"scooping" and 
V5-V6 0.5mm downsloping ST segment depression. This all returned 
back to 
baseline by an extended 12 minute recovery. The rhythm was sinus 
with 
rare APB's and PVC's in early recovery. The heart rate and blood 

pressure responded appropriately to exercise and recovery. 
.  
IMPRESSION: Non-specific ST segment changes in recovery. No 
anginal 
type symptoms reported. Excellent functional capacity 
demonstrated. 
Compared to prior study of ___, ST segment changes in 
recovery are 
new. 

 
Brief Hospital Course:
HOSPITAL COURSE:
This is a ___ year old gentleman with a history of coronary 
artery disease status post recent drug eluting stents x 2, 
hyperlipidemia who presents with worsening symptoms of chest 
pressure for five days.
.
ACTIVE ISSUES:
# CORONARIES: Patient has known CAD, with 3VD, status post DES 
to LAD and LCX in ___ and no intervention to the 
PDA presented with symptoms of crescendo angina.  He had a 
normal excercise stress two weeks prior to admission concerning 
for an acute process related to prior PDA lesion or re-stenosis 
of one of the previously placed stents. Three sets of sets of 
cardiac biomarkers were negative and EKGs were unremarkable and 
unchanged from prior.  A coronary angiogram was recommended and 
offered to the patient who declined invasive procedures prior to 
further imaging of his heart. An excerise tolerance test was 
instead performed which revealed "Non-specific ST segment 
changes in recovery. No anginal type symptoms reported. 
Excellent functional capacity demonstrated. Compared to prior 
study of ___, ST segment changes in recovery are new." The 
patient's primary cardiologist, Dr. ___ the study 
and patient and felt it was safe to have the patient discharged 
with close follow-up.  He was started on a beta blocker prior to 
discharge. Lipid profile was pending at the time of discharge.
.
INACTIVE ISSUES:
# Anemia: On admission, the patient was noted to have a 
normocytic anemia that improved to a hematocrit of 30 to 35 at 
the time of discharge. His stool was guaic postive in the 
emergency department.  The patient had a normal colonscopy in 
___.  He will need this anemia worked-up in the outpatient 
setting, and may require an EGD. His primary care physician was 
notified regarding his hospitalization and laboratory findings.
- F/u Anemia
.
TRANSITIONAL ISSUES:
# Laboratory Studies Pending: Lipid Panel
# Code Status: Full
# Medical Management Changes: Metoprolol 25mg BID was started.
 
Medications on Admission:
Clopidogrel [Plavix] 75 mg daily  
Nitroglycerin 0.3 mg sublingual prn  
Simvastatin 40 mg QHS  
Aspirin 325 mg daily
 
Discharge Medications:
1. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. simvastatin 40 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
4. nitroglycerin 0.4 mg Tablet, Sublingual Sig: ___ every ___ 
minute  Sublingual once a day as needed for chest pain.  
5. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO twice 
a day.
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Angina
2. Coronary Artery Disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted for management of worsening chest pain with 
exertion. An EKG and cardiac enzymes were reassuring, however 
given the worsening symptoms of chest pain a coronary 
catheterization was recommended.  An Excercise Tolerance Test 
was performed which revealed some interval change since your 
last stress test two weeks prior concerning for worsening of 
your coronary artery disease. These results were discussed with 
your primary cardiologist. Please follow up with both Dr. ___ 
___ Dr. ___ to discuss your hospitalization.

You were started on a new medication, metoprolol to help control 
your heart rate and blood pressure.  Please discuss this 
medication with Dr. ___. 

Other than this medication change, you may continue taking your 
home medications as you were prior to this hospitalization.
 
Followup Instructions:
___